US07507740B2
(iii) Production of 2-{3-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propoxy}ethanol hydrochloride
4-Chloro-5-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl}-5H-pyrrolo[3,2-d]pyrimidine (380.2 mg) was dissolved in isopropyl alcohol (7 mL), 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (419.2 mg) was added, and the mixture was stirred at 80° C. for 18 hrs. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=50:50→0:100), and the mixture was dissolved in ethyl acetate (4 mL). 4N Hydrochloric acid-ethyl acetate (0.3 mL) was added to this solution, and the precipitate was collected by filtration, and dried to give the title compound (398.2 mg) as a white solid.

reactant | 4-Chloro-5-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl}-5H-pyrrolo[3,2-d]pyrimidine | 380.2 mg | ClC=1C2=C(N=CN1)C=CN2CCCOCCOC2OCCCC2 | C16H22ClN3O3
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 419.2 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | isopropyl alcohol | 7 mL | C(C)(C)O | C3H8O
product | 2-{3-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]propoxy}ethanol hydrochloride | 398.2 mg | Cl.ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCCOCCO | InChI=1S/C24H22ClF3N4O3.ClH/c25-19-14-17(5-6-21(19)35-18-4-1-3-16(13-18)24(26,27)28)31-23-22-20(29-15-30-23)7-9-32(22)8-2-11-34-12-10-33;/h1,3-7,9,13-15,33H,2,8,10-12H2,(H,29,30,31);1H
